US07799915B2
Step 2B: Preparation of (2E)-3-(dimethylamino)-1-[4-(trifluoromethyl)phenyl]prop-2-en-1-one
A solution of 4′-(trifluoromethyl)acetophenone (9.60 g, 50 mmol) in 25 ml of N,N-dimethylformamide dimethyl acetal (DMF-DMA) is stirred at 105 to 110° C. for 20 hrs. It is then cooled to room temperature, and diluted with hexanes. The resulting suspension is filtered, and the precipitate washed with hexanes to give 10.93 g of a yellow solid; mp 96.5-98° C.; MS (ESI) m/z 244.1 (M+H).

reactant | 4′-(trifluoromethyl)acetophenone | 50 mmol, 9.60 g | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
reactant | N,N-dimethylformamide dimethyl acetal | 25 ml | COC(N(C)C)OC | C5H13NO2
product | (2E)-3-(dimethylamino)-1-[4-(trifluoromethyl)phenyl]prop-2-en-1-one | 10.93 g | CN(/C=C/C(=O)C1=CC=C(C=C1)C(F)(F)F)C | C12H12F3NO
